US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.097 g, 0.349 mmol) was reacted with N-(2-azidoethyl)-1H-pyrrole-2-carboxamide (0.063 g, 0.349 mmol) following the general click procedure to give tert-butyl 4-(5-(1-(2-(1H-pyrrole-2-carboxamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-2-amino-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 8.18 (s, 1H), δ 7.36 (d, 2H), δ 7.24 (s, 1H), δ 6.84 (t, 1H), δ 6.43 (s, 1H), δ 6.04 (s, 2H), 4.49 (s, 2H), δ 3.89 (s, 2H), δ 2.53 (s, 2H), δ 2.09 (s, 2H), δ 1.44 (m, 13H), δ 1.24 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 165.9, 164.8, 164.6, 161.5, 137.5, 122.3, 111.0, 110.7, 107.5, 107.1, 106.8, 85.1, 49.4, 40.5, 29.3, 28.9, 28.2, 25.5 ppm; HRMS (ESI) calcd for C22H32N8O3 (M+) 456.2597. found 456.2590, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-1H-pyrrole-2-carboxamide hydrochloride (0.129 g, 94% yield). 1H NMR (400 MHz, CD3OD) δ 8.65 (s, 1H), δ 7.41 (s, 2H), δ 7.17 (s, 1H), δ 6.50 (s, 1H), δ 4.74 (s, 2H), δ 3.98 (s, 2H), δ 2.88 (s, 2H), δ 2.49 (s, 2H), δ 1.78 (m, 4H), δ 1.44 (s, 2H) ppm; 13C NMR (100 MHz, CD3OD) δ 166.3, 164.5, 162.0, 161.9, 137.4, 110.6, 110.3, 110.2, 108.5, 17.1, 106.8, 59.3, 52.4, 39.5, 36.5, 27.9, 27.8, 27.6, 24.1, 23.5, 23.3 ppm; HRMS (ESI) calcd for C17H24N8O (M+) 356.2073. found 356.2080.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.349 mmol, 0.097 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-1H-pyrrole-2-carboxamide | 0.349 mmol, 0.063 g | N(=[N+]=[N-])CCNC(=O)C=1NC=CC1 | C7H9N5O
product | tert-butyl 4-(5-(1-(2-(1H-pyrrole-2-carboxamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-2-amino-1H-imidazole-1-carboxylate | N1C(=CC=C1)C(=O)NCCN1N=NC(=C1)CCCCCC=1N=C(N(C1)C(=O)OC(C)(C)C)N | C22H32N8O3
